### ISSUE TITLE
examples with Monotone report "typeclass instance problem is stuck"

### ISSUE THREAD

**Issue by medovina** [avigad/mathematics_in_lean_source#175]
I'm using Lean 4.5.0.

Section 3.1 "Implication and the Universal Quantifier" contains this example:

```
example (mf : Monotone f) (mg : Monotone g) : Monotone fun x ↦ f x + g x := by
  intro a b aleb
  apply add_le_add
  apply mf aleb
  apply mg aleb
```

When I enter this code into Lean (preceded by "import Mathlib"), it reports

```
typeclass instance problem is stuck, it is often due to metavariables
  Preorder ?m.1611
```

The same problem also occurs with the exercises that follow that example:

```
example {c : ℝ} (mf : Monotone f) (nnc : 0 ≤ c) : Monotone fun x ↦ c * f x :=
  sorry

example (mf : Monotone f) (mg : Monotone g) : Monotone fun x ↦ f (g x) :=
  sorry
```

**Comment by medovina** [comment]
Adding this fixes the error:

```
variable (f : ℝ → ℝ)
```

**Comment by PatrickMassot** [comment]
You cannot expect to copy random selections of lines from the book into an empty file and hope they will work. If you want to interact with the code, which is a very good idea then you need to follow the instruction and clone the user repository and edit code there.

**Comment by PatrickMassot** [comment]
I am closing the issue in order to avoid confusing other readers, who could believe there is an actual issue. But feel free to ask more questions (asking them on Zulip is probably more convenient).
